US05399561
4,4-Dimethyl-6-trimethylsilylethynyl-2-oxo-thiochroman
A solution of 1.0 g (3.7 mmol) of 4,4-dimethyl-6-bromo-2-oxo-thiochroman in 1 ml of triethylamine was placed in a heavy-walled tube and degassed and then treated under argon with 2.0 g (2.75 ml, 20.0 mmol) of trimethylsilylacetylene and a powdered mixture of 0.038 g of cuprous iodide and 0.084 g of bis(triphenylphosphine) palladium (II) chloride. The reaction mixture was degassed again, then placed under argon and the tube was sealed. The mixture was heated at 55 degrees C. for 24 hours, allowed to cool to room temperature and taken up with methylene chloride and silica. Solvent was removed in-vacuo and the resulting residual material on silica was purified using flash chromatography (SiO2 ; 2% ethyl acetate in hexanes) to give the title compound as a yellow oil.

reactant | 4,4-dimethyl-6-bromo-2-oxo-thiochroman | 3.7 mmol, 1.0 g | CC1(CC(SC2=CC=C(C=C12)Br)=O)C | C11H11BrOS
reactant | trimethylsilylacetylene | 20.0 mmol, 2.75 ml, 2.0 g | C[Si](C)(C)C#C | C5H10Si
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine) palladium (II) chloride | 0.084 g | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4,4-Dimethyl-6-trimethylsilylethynyl-2-oxo-thiochroman | CC1(CC(SC2=CC=C(C=C12)C#C[Si](C)(C)C)=O)C | C16H20OSSi
